US03953604
1-(2-Carbethoxychromon-7-yloxy)-2-Hydroxy-3-(p-cyanophenoxy) propane.
To a suspension of sodium ethoxide, prepared from sodium (6.0 g) and ethanol (60 ml) in dry ether (400 ml) was added a solution of 1-(4-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-(p-cyanophenoxy) propane (26.2 g) and diethel oxalate (30 ml) in dimethyl sulphoxide (100 ml). After heating under reflux for 2 hours, the suspension was poured onto ice (200 g), acidified with a solution of acetic acid (24 ml) in water (160 ml), and the ether layer separated. The aqueous layer was extracted with ether (3 × 50 ml) and the combined ethereal extracts were evaporated under reduced pressure. The residue was dissolved in ethanol (200 ml) containing concentrated hydrochloric acid (20 drops) and the solution heated under reflux for 1 hour. Removal of the ethanol under reduced pressure gave a solid (24.6 g). On crystallization from ethanol 1-(2 -carbethoxychromon-7-yloxy)-2-hydroxy-3-(p-cyanophenoxy) propane was obtained as white crystals m.p. 170°-172° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 6.0 g | [Na] | Na
reactant | 1-(4-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-(p-cyanophenoxy) propane | 26.2 g | C(C)(=O)C1=C(C=C(OCC(COC2=CC=C(C=C2)C#N)O)C=C1)O | C18H17NO5
reactant | oxalate | 30 ml | C(C(=O)[O-])(=O)[O-]
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 160 ml | O | H2O
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(2-Carbethoxychromon-7-yloxy)-2-Hydroxy-3-(p-cyanophenoxy) propane | 24.6 g | C(=O)(OCC)C=1OC2=CC(=CC=C2C(C1)=O)OCC(COC1=CC=C(C=C1)C#N)O | C22H19NO7
